US06069156
To a solution of phosphorus oxychloride (0.031 ml) in dimethylformamide (1.2 ml) was added 1-(2-chlorobenzyl)-2-ethyl-3-propionylindole-6-carboxamide (112 mg) at 0° C., and the mixture was stirred for 15 minutes. The resulting mixture was poured into ammonia water and ice, and then extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was triturated with a mixture of hexane and isopropyl ether to give 1-(2-chlorobenzyl)-2-ethyl-3-propionylindole-6-carbonitrile (93 mg) as a solid.

reactant | phosphorus oxychloride | 0.031 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(2-chlorobenzyl)-2-ethyl-3-propionylindole-6-carboxamide | 112 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)N)C(CC)=O)CC)C=CC=C1 | C21H21ClN2O2
reactant | ammonia water | O.N
solvent | dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
product | 1-(2-chlorobenzyl)-2-ethyl-3-propionylindole-6-carbonitrile | 93 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C#N)C(CC)=O)CC)C=CC=C1 | C21H19ClN2O
